Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Motor vehicle crash
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ year old female who presented as a 
transfer from an OSH ED after sustaining a sternal fracture and 
a left third rib fracture in a motor vehicle crash. She was a 
restrained passenger in the crash. Her daughter was driving and 
she was being taken to an eye surgery earlier in the morning. 
She was transferred for further evaluation of a finding on 
ultrasound at the outside hospital concerning for possible 
pancreatic injury.  
 
Past Medical History:
Past Medical History:
-Hypertension
-Asthma
-Hyperlipidemia
-Hypothyroidism
-Osteoarthritis
-Degenerative disk disease

Past Surgical History:
-Cataract surgery (___)
-Bunion removal (___)
-L knee replacement ___ R knee replacement (___)
-L hip replacement (___)
-Cholecystectomy (1960s)
-Ruptured vertebral disk repair x 2 (1960s)
-?Laminectomy x2 for spinal stenosis (C spine and lumbar spine;
___

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
97.4, 97, 163/77, 18, 96RA
nontoxic, NAD, well appearing
neurologically intact
CTA ___
RRR
abdomen soft nontender nondistended
mild tenderness to palpation along sternum
no signs of extremity edema or trauma
 
Pertinent Results:
___ 12:57AM BLOOD WBC-10.5* RBC-3.92 Hgb-12.6 Hct-39.3 
MCV-100* MCH-32.1* MCHC-32.1 RDW-12.3 RDWSD-45.3 Plt ___
___ 12:57AM BLOOD Neuts-58.1 ___ Monos-10.6 Eos-5.2 
Baso-0.5 Im ___ AbsNeut-6.09 AbsLymp-2.65 AbsMono-1.11* 
AbsEos-0.54 AbsBaso-0.05
___ 12:57AM BLOOD Glucose-82 UreaN-19 Creat-1.1 Na-142 
K-4.6 Cl-103 HCO3-21* AnGap-18*
___ 12:57AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.8

CT abdomen and pelvis 
  
FINDINGS:  
  
LOWER CHEST: There is linear subsegmental atelectasis at the 
lung bases 
bilaterally. No pleural or pericardial effusion. Coronary artery 

calcifications are noted. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is moderate 
distension of the 
central intrahepatic bile ducts. The CBD is dilated measuring up 
to 2.6 cm 
proximally and tapers distally. No distal obstructive mass or 
calculus 
identified. The gallbladder is surgically absent. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions. Main pancreatic duct is 
slightly prominent measuring up to 4.2 mm. Note is made of a 
small gas bubble within the distal main duct at the level of the 
ampulla. There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  Subcentimeter hypodensity in the posterior 
cortex of the interpolar right kidney is too small to adequately 
characterize but likely represents a cyst. There is no solid 
renal mass. No hydronephrosis. There is no perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable. Small bowel loops 
demonstrate normal caliber, wall thickness, and enhancement 
throughout. There is scattered colonic diverticulosis, 
particularly in the sigmoid colon, without evidence of acute 
diverticulitis. The rectum is unremarkable. The appendix is 
normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Bulky uterus containing a large 
heterogeneous partially calcified mass and areas of central 
cystic change/necrosis which most likely represent degenerated 
fibroids. Assessment of the endometrium is limited by mass 
effect. There is no adnexal mass. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy. There is no pelvic or inguinal lymphadenopathy. 

  
VASCULAR: There is moderate-severe atherosclerotic disease of 
the abdominal aorta and iliac arteries. The abdominal aorta is 
focally ectatic at the level of the renal arteries measuring up 
to 2.6 cm. 
  
BONES: Patient is status post left total hip arthroplasty. Note 
is made of L3 laminectomy. No aggressive bone lesion identified. 

  
SOFT TISSUES: Small fat containing umbilical hernia. 
  
IMPRESSION: 
  
1. No evidence of acute pancreatic injury. 
2. Moderate dilatation of the CBD and central intrahepatic bile 
ducts with no evidence of a distal obstructive mass or calculus. 
This finding is of 
indeterminate significance and can be seen post cholecystectomy. 
Correlation with LFTs is recommended. MRCP maybe helpful for 
further evaluation. 
3. Bulky uterus containing a large calcified mass and areas of 
central cystic change/necrosis likely represent degenerated 
fibroids. Comparisons to prior imaging if available would be 
helpful for confirmation. 
  
___, MD 
___, MD 

 
Brief Hospital Course:
Ms. ___ was transferred to ___ after a motor vehicle 
crash. She sustained a sternal fracture and a left third rib 
fracture. Ultrasound imaging at the other hospital was 
concerning for possible pancreatic injury. At ___ she was 
monitored, given pain medication, and taught to use incentive 
spirometry for pulmonary toileting. She was hydrated and a CT 
abdomen/pelvis showed biliary dilation consistent with a 
post-cholecystectomy state, no pancreatic injury, and no 
pancreatic mass. It did show some large calcified fibroids on 
the uterus. Ms. ___ tolerated regular food without 
abdominal pain and was tolerating oral pain medications for her 
injuries. She was walking and voiding independently. A tertiary 
survey was performed and no additional injuries were identified. 
She was cleared for discharge home with PCP follow up on 
___. She does not need to follow up with the Acute Care 
Surgery service at ___ unless she has an issue related to her 
injuries that she would like to discuss.
 
Medications on Admission:
Atenolol
Levothyroxine
Simvastatin
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q4 Disp 
#*25 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
5.  Atenolol 50 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sternal fracture
Left third rib fracture
Calcified uterine fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the trauma surgery service at ___ and are 
now cleared to continue your recovery at home. You have a 
nondisplaced sternal fracture (your breast bone) and a single 
rib fracture on the left. We did not see evidence of 
intraabdominal injury on your CAT scan. You do have large 
fibroids on your uterus that you should follow up with your PCP 
about in ___ nonurgent manner. 

On discharge, you should continue your home medications and take 
Tylenol, motrin, and oxycodone as needed for pain control. You 
should keep using your breathing tool to expand your lungs. We 
encourage coughing and deep breathing to avoid pneumonia or lung 
collapse. Please feel free to call the trauma surgery clinic if 
you have any questions or concerns but you will not need routine 
follow up with us. You should see your PCP within the next week 
to follow up from this hospitalization and discuss the fibroids 
seen on your CT scan to determine if any additional workup or 
follow up will be needed for those.
 
Followup Instructions:
___